US04018794
By replacing in Example 18, step C, 2,2'-dibenzoyl-3,3'-dibenzylthio-5,5'-dicarboxyazobenzene with 3,3'-diallylthio-2,2'-dibenzoyl-5,5'-dicarboxyazobenzene and following the procedure described, 3-allylthio-5-amino-4-benzoylbenzoic acid is obtained with a melting point of 152.5°-153.5° C.

reactant | 2,2'-dibenzoyl-3,3'-dibenzylthio-5,5'-dicarboxyazobenzene | C(C1=CC=CC=C1)(=O)C1=C(C=C(C=C1SCC1=CC=CC=C1)C(=O)O)N=NC1=C(C(=CC(=C1)C(=O)O)SCC1=CC=CC=C1)C(C1=CC=CC=C1)=O | C42H30N2O6S2
reactant | 3,3'-diallylthio-2,2'-dibenzoyl-5,5'-dicarboxyazobenzene | C(C=C)SC=1C(=C(C=C(C1)C(=O)O)N=NC1=C(C(=CC(=C1)C(=O)O)SCC=C)C(C1=CC=CC=C1)=O)C(C1=CC=CC=C1)=O | C34H26N2O6S2
product | 3-allylthio-5-amino-4-benzoylbenzoic acid | C(C=C)SC=1C=C(C(=O)O)C=C(C1C(C1=CC=CC=C1)=O)N | C17H15NO3S
